US07799815B2
Preparation 1: diethyl-2-(2-methyl-6-quinolinyl)-2-butenedioate (P1)
To a stirred solution of 6-bromo-2-methylquinoline (2.89 g) in DMF (70 mL) at room temperature, diethyl maleate (4.85 mL), palladium acetate (0.15 g), tri(o-tolyl)phosphine (0.39 g) and potassium carbonate (3.59 g) were subsequently added then the reaction mixture was warmed to 100° C. and stirring continued overnight. After cooling, the reaction mixture was quenched with water and extracted twice with diethyl ether. The combined organic layers were collected, dried over sodium sulphate and concentrated under reduced pressure. The crude product was purified by flash chromatography on silica gel (eluting with cyclohexane-ethyl acetate from 100 to 60%) to give 4 g of the title compound as a slightly yellow oil.

reactant | 6-bromo-2-methylquinoline | 2.89 g | BrC=1C=C2C=CC(=NC2=CC1)C | C10H8BrN
reactant | diethyl maleate | 4.85 mL | C(\C=C/C(=O)OCC)(=O)OCC | C8H12O4
reactant | tri(o-tolyl)phosphine | 0.39 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | potassium carbonate | 3.59 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.15 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | diethyl-2-(2-methyl-6-quinolinyl)-2-butenedioate | 4 g | C(C)OC(C(=CC(=O)OCC)C=1C=C2C=CC(=NC2=CC1)C)=O | C18H19NO4
